US05726315
(e) 2-Bromo-3-hydroxy-6-hydroxymethylpyridine
Potassium hydroxide (85% assay, 113.8 g, 1.73 mol) was dissolved in distilled water (750 ml) and to the solution was added 2-bromo-3-hydroxypyridine (300 g, 1.72 mol), ethylenediaminetetraaeetic acid sodium salt (2 mol %, 13.1 g, 0.034 mol) and formalin (37-41% w/v 470 ml, 5.95 mol). The stirred mixture was heated at 90°-95° C. until the assay (HPLC) of remaining starting material fell below 3% (approx 5 h). The reaction mixture was then cooled to room temperature and glacial acetic acid (103 ml) added and stirred for a further 2 h. The precipitated solid was filtered from the mixture and the filtrate saturated with sodium chloride (310 g). The resulting solution was extracted with ethyl acetate (4×280 ml). The combined organic extracts were dried and evaporated to dryness keeping the temperature below 85° C. The residue was assayed by HPLC to determine the quantity of contained 2-bromo-3-hydroxy-6-hydroxymethylpyridine. The yield was typically 65%.

reactant | Potassium hydroxide | 1.73 mol, 113.8 g | [OH-].[K+]
reactant | 2-bromo-3-hydroxypyridine | 1.72 mol, 300 g | BrC1=NC=CC=C1O | C5H4BrNO
reactant | sodium | 0.034 mol, 13.1 g | [Na] | Na
reactant | formalin | 5.95 mol, 470 ml | C=O | CH2O
solvent | water | 750 ml | O | H2O
solvent | acetic acid | 103 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-3-hydroxy-6-hydroxymethylpyridine | BrC1=NC(=CC=C1O)CO | C6H6BrNO2
